US04116951
Boc-Ala-Glu(OBzl)-Asn-OBzl.
Boc-Ala-Glu(OBzl)-OH (10.4 g, 25.4 mmol), HCl H-Asn-OBzl (6.56 g, 25.4 mmol) and HOSu (5.9 g, 50.8 mmol) were dissolved in DMF (250 ml, 0°). DCC (5.7 g, 27.6 mmol) was added followed immediately by Et3N (3.5 ml). The mixture was stirred at 0° for 2 hours and then at 25° for 40 hours during which period some more Et3N was added from time to time to maintain the reaction slightly basic. The insoluble by-products formed were filtered off and the filtrate evaporated to dryness. The residual oily material solidified on treatment with water. The crude product was taken up in CHCl3, washed with water (3×), dried over Na2SO4 and evaporated to a smaller volume. Some solid formed at this stage was filtered off (heavily contaminated with dicyclohexylurea) and the filtrate treated with petroleum ether. A crystalline product was obtained: Yield, 8.0 g (51.4%); mp 102°-105°; [α]D25 =-12.05° (c 1, DMF).

reactant | Boc-Ala-Glu(OBzl)-OH | 25.4 mmol, 10.4 g | N([C@@H](C)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C20H28N2O7
reactant | HOSu | 50.8 mmol, 5.9 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 27.6 mmol, 5.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Et3N | 3.5 ml | CCN(CC)CC | C6H15N
reactant | DMF | 250 ml | CN(C)C=O | C3H7NO
product | Boc-Ala-Glu(OBzl)-Asn-OBzl | N([C@@H](C)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](CC(N)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C31H40N4O9
